US09059448B2
Montmorillonite clay K10 (150 g) was reacted with 99 g of dihydroxybenzophenone at 110° C. in a mixture of 242 ml of ethylene glycol/99 ml of trimethyl orthoformate while distilling a produced by-product. After a lapse of 18 hours, 66 g of trimethyl orthoformate was added to perform a synthetic reaction for 48 hours. 300 ml of ethyl acetate was added to a reactant solution, and the resulting mixture was filtered and extracted with a 2% aqueous solution of sodium hydrogen carbonate four times. Furthermore, the reactant was concentrated, and then recrystallized with dichloroethane to obtain desired 2,2-bis(4-hydroxyphenyl)-1,3-dioxolane.

reactant | dihydroxybenzophenone | 99 g | OC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1)O | C13H10O3
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | ethylene glycol | 242 ml | C(CO)O | C2H6O2
product | 2,2-bis(4-hydroxyphenyl)-1,3-dioxolane | OC1=CC=C(C=C1)C1(OCCO1)C1=CC=C(C=C1)O | C15H14O4
